Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dizziness, headache
 
Major Surgical or Invasive Procedure:
Lumbar Puncture ___

 
History of Present Illness:
___ year old M who presents with dizziness and morning headaches.
Pt noticed that while in the shower he was unsteady and tending
to lean against the wall starting in ___. He had worsening
dizziness and eventually sought care on ___ and was thought to
have BPPV and taught maneuvers to improve symptoms. He had
persistent symptoms and a week ago started having mild headaches
in the morning. Eventually he reported that he lost a sense of
taste, so an MRI was obtained on ___ which revealed enhancing
cerebellar lesions and possible leptomeningeal disease. He was
referred to ___ ED. 

In the ED, he was seen by neurosurgery and no acute procedural
intervention was recommended. He was started on dexamethasone 4
q6 and admitted for further workup. Pt otherwise denies any 
other
localizing symptoms such as cough, hemoptysis, blood in stool,
weight gain or loss, fevers or chills or sweats. 

ROS: As above. Denies sore throat, sinus congestion, chest pain,
heart palpitations, shortness of breath, cough, nausea, 
vomiting,
diarrhea, constipation, urinary symptoms, muscle or joint pains,
focal numbness or tingling, skin rash. The remainder of the ROS
was negative.

 
Past Medical History:
Hypertension 
GERD
Mild persistent asthma
h/o pulmonary TB
Hyperlipidemia
 
Social History:
___
Family History:
Father died of colon cancer at age ___. Mother died of heart
disease in her ___. Originally from ___. 
 
Physical Exam:
ADMISSION EXAM:
VS - 97.5 147/91 71 16 96% RA 
GEN - NAD, lying in bed comfortably
HEENT - NCAT
NECK - no cervical LAD
CV - rrr, no r/m/g
RESP - clear b/l
ABD - soft, nt/nd, +bs
EXT - no edema
SKIN - no rashes
NEURO - alert and oriented x 3, very slight dysmetria L side on
finger to nose testing; no pronator drift; EOMI but reports
double vision when moving eyes
PSYCH - calm

Discharge:
Afebrile, aVSS
Ambulating independently on medical floor and NAD, pleasant
AOx3 in good humor
Lungs CTAB
CV: RRR, S1S2 clear and good quality
Neuro exam normal aside from vestibular symptoms when turning 
head
 
Pertinent Results:
ADMISSION LABS
--------------
___ 08:14PM BLOOD WBC-6.0 RBC-4.70 Hgb-14.6 Hct-43.3 MCV-92 
MCH-31.1 MCHC-33.7 RDW-13.8 RDWSD-47.2* Plt ___
___ 08:14PM BLOOD Neuts-48.8 ___ Monos-10.2 Eos-4.7 
Baso-1.3* Im ___ AbsNeut-2.92 AbsLymp-2.08 AbsMono-0.61 
AbsEos-0.28 AbsBaso-0.08
___ 08:14PM BLOOD ___ PTT-30.5 ___
___ 08:14PM BLOOD Glucose-111* UreaN-20 Creat-0.8 Na-139 
K-4.2 Cl-104 HCO3-25 AnGap-10
___ 05:10AM BLOOD ALT-16 AST-17 AlkPhos-87 TotBili-0.5
___ 05:10AM BLOOD Calcium-9.4 Phos-1.5* Mg-2.1
  
Discharge Labs:
___ 05:25AM BLOOD WBC-17.0* RBC-4.65 Hgb-14.2 Hct-42.1 
MCV-91 MCH-30.5 MCHC-33.7 RDW-13.9 RDWSD-45.9 Plt ___
___ 05:25AM BLOOD ___ PTT-27.7 ___
___ 05:25AM BLOOD Glucose-130* UreaN-27* Creat-0.9 Na-141 
K-4.8 Cl-103 HCO3-25 AnGap-13

CSF:
___ 12:00PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-0 Polys-0 
___ Macroph-55
___ 12:00PM CEREBROSPINAL FLUID (CSF) TotProt-49* 
Glucose-78
___ 12:00PM CEREBROSPINAL FLUID (CSF) CSF HOLD-Test    
   
IMAGING
-------
CT Head w/o contrast:
1. No evidence of an acute intracranial abnormality. 
2. Periventricular and subcortical white matter hypodensities 
are
nonspecific and commonly sequelae of chronic small vessel
ischemic disease, but metastatic lesions cannot be excluded on
the basis of noncontrast CT.  Reported cerebellar lesions are 
not
appreciated on noncontrast CT.  Recommend correlation with
outside hospital brain MRI. 
3. No large calvarial lesions. Small calvarial lucencies most
commonly reflect small venous channels or arachnoid 
granulations.
Recommend correlation with outside hospital brain MRI. 

MR Brain: 
1. Multiple enhancing lesions within the posterior fossa
predominantly within the left cerebellum and cerebellar vermis.
The largest lesion is within the mid  cerebellar vermis 
measuring
1.5 x 1.3 cm. There is leptomeningeal enhancement of
the left superior cerebellum, consistent with CSF dissemination.
Findings could represent metastatic disease. Alternatively, 
there
are a few nonenhancing lesions within the right paramedian
cerebellum, left flocculus as well as ill-defined left 
cerebellar
increased signal, and this could represent a
multifocal glioma. No supratentorial lesions are seen.
2. Hypointense lesion with surrounding enhancement within the C4
vertebral body, not well-seen on the prior study and could
represent a bony metastatic lesion.
3. Unremarkable MRA of the brain.
4. Unremarkable MRA of the neck.

  
 
Brief Hospital Course:
___ year old male, presenting with two months of worsening 
dizziness, one week of morning headaches, and a few days of loss 
of taste with brain imaging concerning for cerebellar metastasis 
vs primary malignancy in the brain.
   
Active Issues + Action Items:
# Cerebellar lesions with concern for mets vs primary malignancy
# Dizziness
# Headache: 
Unclear cause, no history of cancer.  MRI imaging with cerebella 
lesions and leptomeningeal enhancement.  Neurosurgery was 
consulted and recommended no intervention, but to start 
dexamethasone.  He was started on Dexamethasone 4mg PO QID. 
Neuro-Oncology was consulted, and recommended LP. LP was 
performed which revealed normal appearing CSF fluid, cytology 
sent for analysis. CT torso and CT chest did not reveal a 
primary source of malignancy. Oncology was consulted who will 
see in the outpatient setting and scheduled outpatient PET-CT. 
Dermatology was consulted for possible melanoma primary lesion 
but exam was unremarkable including a concerning appearing 
lesion which they felt was SK and not melanoma, no biopsy was 
obtained. Dexamethasone tapered to 4mg PO BID in conjunction 
with oncology recommendations.
  
# Hypertension: continue home chlorthalidone 

# Mild asthma: albuterol PRN

# GERD: continue home omeprazole

Transitional Issues:
- Follow up CSF cytology
- PET-CT scheduled as an outpatient
- Oncology outpatient follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. beclomethasone dipropionate 80 mcg/actuation inhalation BID 
4. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 4 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
2.  Ketoconazole 2%  1 Appl TP BID 
RX *ketoconazole 2 % Apply to feet twice a day Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
4.  beclomethasone dipropionate 80 mcg/actuation inhalation BID  

5.  Chlorthalidone 25 mg PO DAILY  
6.  Omeprazole 20 mg PO BID  
7. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until talking to your oncologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active: 
- Cerebella masses concerning for metastases
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came for further evaluation of dizziness 
and headache.  Further testing did not reveal a primary source 
of the masses in your brain. You had a lumbar puncture which did 
not reveal infection and cytology will return next week. You 
were seen by both oncology and dermatology for further 
evaluation. You are now being discharged to home with plan for 
follow up with oncology and for plan to have a PET-CT and to 
follow up pending labs. 

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___